US05162316
7-Ethyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
In a similar manner to Example 3 reaction of ethyl 4-chloro-2-ethyl-5-pyrimidine carboxylate (0.86 g) with 2-propoxybenzamidine (from sodium, 0.1 g, in ethanol, 10 ml, and 2-propoxybenzamidine methanesulphonate, 1.20 g) and triethylamine (0.4 g) in acetonitrile (25 ml) for 3 days at ambient temperature yielded a crude product, which was recrystallised twice from 2-propanol-ether to yield the title compound, 95 mg, m.p. 118°-119° C.

reactant | ethyl 4-chloro-2-ethyl-5-pyrimidine carboxylate | 0.86 g | ClC1=NC(=NC=C1C(=O)OCC)CC | C9H11ClN2O2
reactant | 2-propoxybenzamidine | 10 ml, 0.1 g | C(CC)OC1=C(C(=N)N)C=CC=C1 | C10H14N2O
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 7-Ethyl-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | C(C)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C17H18N4O2
